US08710245B2
(b) Synthesis of (2-ethyl-6,7-dihydro-4H-thieno[3,2-c]pyran-4-yl)methanamine
To a solution of 2-(5-ethylthiophen-2-yl)ethanol (1 g, 6.4 mmol, 1.1 eq) and aminoacetaldehyde dimethylacetal (612 mg, 5.83 mmol, 1 eq) was added CF3SO3H (2.7 g, 17.5 mmol, 3 eq) dropwise at 0° C. After stirring at room temperature overnight, the reaction mixture was diluted with water, adjusted pH to ˜8 with Na2CO3, and extracted with EtOAc. The organic layer was dried over Na2SO4, and concentrated. The crude product was purified by column chromatography.

reactant | 2-(5-ethylthiophen-2-yl)ethanol | 6.4 mmol, 1 g, 1.1 eq | C(C)C1=CC=C(S1)CCO | C8H12OS
reactant | aminoacetaldehyde dimethylacetal | 5.83 mmol, 612 mg, 1 eq | COC(CN)OC | C4H11NO2
reactant | CF3SO3H | 17.5 mmol, 2.7 g, 3 eq | C(F)(F)(F)S(=O)(=O)O | CHF3O3S
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | O | H2O
product | (2-ethyl-6,7-dihydro-4H-thieno[3,2-c]pyran-4-yl)methanamine | C(C)C1=CC=2C(OCCC2S1)CN | C10H15NOS
